US05236952
30.0 g of 3,4-dimethoxy-5-nitrobenzoic acid are dissolved in 250 ml of tetrahydrofuran and, after the addition of 21.85 g of 1,1'-carbonyldiimidazole, the mixture is stirred at the reflux temperature for 2 hours. The mixture is poured into 300 ml of ice-water and the precipitated crystals are filtered under suction after stirring for 30 minutes. The crystals are taken up in methylene chloride, whereupon the organic phase is washed with water, dried over sodium sulfate and evaporated. After crystallization from methylene chloride/hexane, there is obtained 1-(3,4-dimethoxy-5-nitrobenzoyl)imidazole in the form of colorless crystals of m.p. 136°-137°.

reactant | 3,4-dimethoxy-5-nitrobenzoic acid | 30.0 g | COC=1C=C(C(=O)O)C=C(C1OC)[N+](=O)[O-] | C9H9NO6
reactant | 1,1'-carbonyldiimidazole | 21.85 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
solvent | tetrahydrofuran | 250 ml | O1CCCC1 | C4H8O
product | 1-(3,4-dimethoxy-5-nitrobenzoyl)imidazole | COC=1C=C(C(=O)N2C=NC=C2)C=C(C1OC)[N+](=O)[O-] | C12H11N3O5
